Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain after heroin and cocaine use
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
     ___ M w/ a hx of IVDU presenting with chest pain after 
using heroin and cocaine yesterday ___.  His pain was left-sided, 
sharp, and radiated to his L neck.  He had no associated SOB, 
chest palpitations, lightheadedness, vomiting, nausea, or 
fevers. He had no back pain and no abdominal pain during this 
episode.  He has had similar symptoms after drug use multiple 
times in the past.  The pain is not worsened with breathing.  He 
last used heroin around ___ yesterday evening and has started 
using heroin and cocaine over the past ___ months, everyday.

     Patient reports that he was admitted to ___ last week after 
a diagnosis of endocarditis but left AMA and did not receive 
full treatment there.  He reports that the physicians there 
found "bacteria in his blood" and that he left because "they 
weren't doing anything for how I felt". He has not had any 
hematuria or changes in urination. 

     Mr. ___ has also had a sore throat for the past 2 days.  
The sore throat is not associated with any rhinorrhea, cough, or 
sneezing.

     In the ED, initial VS were Temp 99.0, HR 80, BP 120/71, RR 
18, Pox 98% on RA.  
     Exam was notable for bilateral tonsilar swelling and 
erythema, anterior cervical lymphadenopathy, no cardiac murmurs. 
 
Labs showed Trop-T<0.1, K=3.2, Glc 105, nl WBC (9.0), Hgb 11.8, 
Hct 36.5
Normal CXR.
Received vancomycin 1 gram IV, lidocaine for sore throat, and 
KCL 40 meq PO for K-3.2

     Decision was made to admit to medicine for further 
management.  
On arrival to the floor, patient reports that the chest pain 
remains at an ___ and additionally reported lower back pain 
along the spine.  The pain is sub-sternal and does not radiate.  
He feels nauseous, hot, and fidgety.
 
Past Medical History:
-Hepatitic C (IV drug use)
-Asthma
 
Social History:
___
Family History:
Does not know family whereabouts or health status
 
Physical Exam:
Admission:
VS - Tmax 97.8, Tc 97.8, HR 75, BP 135/91, RR 16, 02 sat 99% on 
RA  
General: no acute distress, sweaty
HEENT: MMM, EOMI
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB  
Abdomen: soft, nontender, nondistended, +BS, back nontender
GU: deferred  
Ext: warm and well perfused, pulses, no edema  
Neuro: grossly normal

Discharge:
VS - 98.5 141 / 70 86 18 99  on RA  
General: no acute distress, sweaty
HEENT: MMM, EOMI
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB  
Abdomen: soft, nontender, nondistended, +BS, back nontender
GU: deferred  
Ext: warm and well perfused, pulses, no edema  
Neuro: grossly normal  
 
Pertinent Results:
Admission:
___ 09:20AM   cTropnT-<0.01
___ 02:43AM   GLUCOSE-105* UREA N-20 CREAT-0.8 SODIUM-138 
POTASSIUM-3.2* CHLORIDE-102 TOTAL CO2-25 ANION GAP-14
___ 02:43AM   estGFR-Using this
___ 02:43AM   cTropnT-<0.01
___ 02:43AM   CALCIUM-8.6 PHOSPHATE-3.1 MAGNESIUM-2.3
___ 02:43AM   WBC-9.0 RBC-4.13* HGB-11.8* HCT-36.4* MCV-88 
MCH-28.6 MCHC-32.4 RDW-14.2 RDWSD-45.7
___ 02:43AM   NEUTS-47.6 ___ MONOS-10.8 EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-4.29 AbsLymp-3.62 AbsMono-0.97* 
AbsEos-0.08 AbsBaso-0.03
___ 02:43AM   PLT COUNT-186

IMAGING:  
CXR ___:
IMPRESSION: Normal chest radiograph. 

EKG ___:
-Normal sinus rhythm; rate 79; LVH; QTc 458

Discharge:
 
Brief Hospital Course:
___ w/ a hx of IVDU here with chest pain after heroin and 
cocaine use concerning for cocaine-induced coronary artery 
vasospasm and increased oxygen demand.  Presented with symptoms 
of heroin withdrawal including nausea, vomiting, sweating, and 
agitation.

#) Chest Pain
Left-sided chest pain radiating to the L neck after using 
cocaine concerning for cocaine-induced coronary artery 
vasospasm. Patient had similar symptoms associated w/ cocaine 
use, with chest pain occurring after cocaine use.  Troponin was 
<0.1 x2 ruling out ACS. EKG showed no ST changes. 

#) IV Drug use/withdrawal
Heroin and cocaine use daily for the past ___ months. Heroin 
withdrawal w/ nausea, sweating, and restlessness. He was given 
diazepam, Zofran, hydroxyzine and loperamide for symptomatic 
treatment. Social work was consulted, and met him before he 
left.

#) Concern for "endocarditis"
Initial concern for "endocarditis" as patient reported that he 
recently left ___ AMA after "endocarditis diagnosis" before full 
treatment. However, no fever, no ___ lesion, no ___ nodes. 
Further investigation of ___ records showed that he did appear 
there with fever but had negative blood culture after 5 days. 
Vancomycin was discontinued after 1 day.

#) Pharyngitis
Sore throat concerning for bacterial pharyngitis vs. viral 
pharyngitis. Lack of associated viral sxs including cough, runny 
nose, or sneezing. Also no cervical lymphadenopathy or tonsilar 
exudates.  Also possibly due to heroin withdrawal. He was given 
cepacol prn. 

#) Back pain
Given his unclear history and exam findings of back pain in the 
setting of active IVDU and recent fever, we recommended spine 
MRI studies.  Unfortunately, the pt left against medical advice 
on ___ having declined further work-up at this time. During 
the pre-discharge discussions, he expressed his understanding of 
the risks of leaving without these studies, including risk of 
worsening infection, paralysis, and even death. He still 
declined to stay. Of note, he also met with social work on 
___ for information on detox programs and housing programs, 
but he declined to stay for further help with these issues as 
well. He knows to return to the ED if his back pain/chest pain 
worsens, if he develops fevers, or if he feels unsafe in his 
living situation.  When he left, he eloped without notifying any 
staff, so we could not give him paperwork summarizing his stay, 
recommended medications or follow-up.
 
Medications on Admission:
none
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
=========
- cocaine-induced chest pain 
- opiate addiction 
- back pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came to the hospital with chest pain because you were using 
cocaine. We made sure there were no problems with your heart, 
and treated your heroin withdrawal symptoms. You met with the 
social worker, who offered to help you find treatment programs 
and help with housing, but you declined. We also talked about 
how your back pain could be caused by a serious infection, but 
you declined to stay for imaging of your back. 

It is very important for your health that you seek treatment for 
your drug addiction. 

Please take your medications and follow-up with your doctors as 
___ below, 

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___